US05231102
a) 4-(3-Hydroxyprop-2-ynyl)phenylacetic acid methyl ester
4-Bromophenylacetic acid methyl ester (23 g, 0.1 mol) was dissolved in dry triethylamine (80 ml) with propynol (5.82 ml, 0.1 mol). After the addition of cuprous iodide (0.3 g) and bis (triphenylphosphine)palladium (II) chloride (1 g) the reaction mixture was heated at 65° C. under nitrogen for 14 h. The solvent was evaporated under vacuum and the residue was dissolved in ethyl acetate (500 ml) and washed successively with 0.5M citric acid solution (2×200 ml), saturated sodium hydrogen carbonate solution (2×200 ml) and brine (1×150 ml). The organic solution was dried (Na2SO4), filtered and concentrated in vacuo to give an oil which was purified by chromatography on silica gel using 20% ethyl acetate in hexane as eluent to give the required compound (5.6 g) as an oil. δ (360 MHz, CDCl3) 3.62 (2H, s, CH2CO2CH3), 3.69 (3H, s, CH2CO2CH3), 4.48 (1H, s, HOCH2), 7.22 (2H, d, J=8.2 Hz, ArH), 7.39 (2H, d, J=8.2 Hz, ArH); m/e 204 (M+).

reactant | 4-Bromophenylacetic acid methyl ester | 0.1 mol, 23 g | COC(CC1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | propynol | 0.1 mol, 5.82 ml | C(#CC)O | C3H4O
solvent | triethylamine | 80 ml | C(C)N(CC)CC | C6H15N
catalyst | bis (triphenylphosphine)palladium (II) chloride | 1 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-(3-Hydroxyprop-2-ynyl)phenylacetic acid methyl ester | 5.6 g | COC(CC1=CC=C(C=C1)CC#CO)=O | C12H12O3
